US04442115
Potassium 2-benzyl-2H-tetrazole-5-carboxylate (2.42 g) was suspended in water (10 ml) and the mixture was warmed until it dissolved. The solution was cooled in ice and strongly acidified by treatment with concentrated hydrochloric acid to give 2-benzyl-2H-tetrazole-5-carboxylic acid (1.46 g), m.p. 127°-130° C.

reactant | Potassium 2-benzyl-2H-tetrazole-5-carboxylate | 2.42 g | C(C1=CC=CC=C1)N1N=C(N=N1)C(=O)[O-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 2-benzyl-2H-tetrazole-5-carboxylic acid | 1.46 g | C(C1=CC=CC=C1)N1N=C(N=N1)C(=O)O | C9H8N4O2
